US06001997
(c) 4-Methoxybenzyl (2RS)-2-Hydroxy-2-[(3R,4R)-3-phenylacetamido-4- [ (2RS, 3SR) -3-methyltetrahYdrofuran-2-ylcarbonylmethylthio]azetidin-2-on-1-yl]acetate
4-Methoxybenzyl (2RS) -2-hydroxy-2- [(1R, 5R) -3-benzyl-4-thia-2,6-diazabicyclo[3.2.0]hept-2-en-7-on-6-yl]acetate (12.66 g) was hydrolysed in 50% dichloromethane-acetone (80 ml) with toluene-4-sulphonic acid hydrate (10.22 g) in water (25 ml) as described in Example 6 (b). The crude thiol thus prepared (12.942 g), in acetone (50 ml) was treated with (2RS,3SR)-2-bromoacetyl-3-methyltetrahydrofuran (6.57 g) in acetone (20 ml) for 10 min. at room temperature. Then potassium carbonate (2.08 g) was added and stirring continued for 30 min. The solution was diluted with ethyl acetate (200 ml), washed with water (2x), brine and then dried. Remvoal of solvent gave a yellow gum. Flash chromatography on silica gel eluting with 50, 60, 70, 80 and then 90% ethyl acetate-hexane afforded the title compound as a pale yellow foam (10.406 g, 62%); νmax (CH2Cl2) 3405(br), 1780, 1744, 1683 and 1613 cm-1.

reactant | 4-Methoxybenzyl (2RS) -2-hydroxy-2- [(1R, 5R) -3-benzyl-4-thia-2,6-diazabicyclo[3.2.0]hept-2-en-7-on-6-yl]acetate | 12.66 g | OC(C(=O)OCC1=CC=C(C=C1)OC)N1[C@@H]2SC(=N[C@@H]2C1=O)CC1=CC=CC=C1 | C21H20N2O5S
reactant | toluene-4-sulphonic acid hydrate | 10.22 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (2RS,3SR)-2-bromoacetyl-3-methyltetrahydrofuran | 6.57 g | BrCC(=O)C1OCCC1C | C7H11BrO2
reactant | potassium carbonate | 2.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane acetone | 80 ml | ClCCl.CC(=O)C
solvent | water | 25 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Methoxybenzyl (2RS)-2-Hydroxy-2-[(3R,4R)-3-phenylacetamido-4- [ (2RS, 3SR) -3-methyltetrahYdrofuran-2-ylcarbonylmethylthio]azetidin-2-on-1-yl]acetate | 10.406 g, 62% | OC(C(=O)OCC1=CC=C(C=C1)OC)N1C([C@H]([C@H]1SCC(=O)C1OCCC1C)NC(CC1=CC=CC=C1)=O)=O | C28H32N2O8S
